US05506256
C) (2S)-2-[1-Hydroxy-2-(4-methoxyphenoxy)ethyl]-1-[N-(N-phenylglycyl)-L-prolyl]pyrrolidine
(2S)-1-{N-[N-(tert-Butoxycarbonyl)-N-phenylglycyl]-L-prolyl}-2-[1-hydroxy-2-(4-methoxyphenoxy)ethyl]pyrrolidine (656 mg) was dissolved in 4N hydrochloric acid/1,4-dioxane (5 ml) and the mixture was stirred at room temperature for 0.5 hour. The reaction mixture was concentrated, and the resultant residue was dissolved in saturated aqueous sodium bicarbonate, followed by extraction with chloroform. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give 518 mg of the title compound.

reactant | (2S)-1-{N-[N-(tert-Butoxycarbonyl)-N-phenylglycyl]-L-prolyl}-2-[1-hydroxy-2-(4-methoxyphenoxy)ethyl]pyrrolidine | 656 mg | C(C)(C)(C)OC(=O)N(CC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC=C(C=C2)OC)O)CCC1)C1=CC=CC=C1 | C31H41N3O7
solvent | hydrochloric acid 1,4-dioxane | 4N, 5 ml | Cl.O1CCOCC1
product | (2S)-2-[1-Hydroxy-2-(4-methoxyphenoxy)ethyl]-1-[N-(N-phenylglycyl)-L-prolyl]pyrrolidine | 518 mg | OC(COC1=CC=C(C=C1)OC)[C@H]1N(CCC1)C([C@H]1N(CCC1)C(CNC1=CC=CC=C1)=O)=O | C26H33N3O5
